US07597875B2
Tris(2-azidoethyl)methane (15.06 g, 0.0676 mol), (assuming 100% yield from previous reaction) in ethanol (200 ml) was treated with 10% palladium on charcoal (2 g, 50% water) and hydrogenated for 12 h. The reaction vessel was evacuated every 2 hours to remove nitrogen evolved from the reaction and refilled with hydrogen. A sample was taken for NMR analysis to confirm complete conversion of the triazide to the triamine. Caution: unreduced azide could explode on distillation. The reaction was filtered through a celite pad to remove the catalyst and concentrated in vacuo to give tris(2-aminoethyl)methane as an oil. This was further purified by Kugelrohr distillation bp.180-200° C. at 0.4 mm/Hg to give a colourless oil (8.1 g, 82.7% overall yield from the triol).

reactant | Tris(2-azidoethyl)methane | 0.0676 mol, 15.06 g | N(=[N+]=[N-])CCC(CCN=[N+]=[N-])CCN=[N+]=[N-] | C7H13N9
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
product | tris(2-aminoethyl)methane | 100% yield | NCCC(CCN)CCN | C7H19N3
